US08202511B2
2-[(2,2-Dimethyl-[1,3]dioxolan-4-yl-methyl)-amino]-ethanol
The N-(hydroxyethyl)-amino-2,3-propanediol (16.5 g, 122 mmol) was treated with a solution of HCl in dioxane (33.5 ml, 134 mmol). To this solution were added 2,2-dimethoxypropane (15.3 g, 147 mmol), DMAC (50 mL), and a catalytic amount of para-toluene sulphonic acid (0.006 mol, 1.16 g). The mixture stirred at room temperature for 24 hours. Triethylamine (1 mL) was then added, and the solvents removed by rotary evaporation. The viscous crude mixture was dissolved into triethylamine (30 mL) and ethyl acetate (500 mL) and stirred at RT for 30 min. The mixture was filtered and the collected solid washed several times with ethyl acetate. The filtrate was then evaporated on a high vacuum rotary evaporator at 40° C. to give a yellow liquid (0.122 mol, 99% yield).

reactant | N-(hydroxyethyl)-amino-2,3-propanediol | 122 mmol, 16.5 g | OCCNCC(CO)O | C5H13NO3
reactant | HCl | Cl | ClH
reactant | dioxane | 134 mmol, 33.5 ml | O1CCOCC1 | C4H8O2
reactant | 2,2-dimethoxypropane | 147 mmol, 15.3 g | COC(C)(C)OC | C5H12O2
catalyst | para-toluene sulphonic acid | 0.006 mol, 1.16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DMAC | 50 mL | CC(=O)N(C)C | C4H9NO
product | 2-[(2,2-Dimethyl-[1,3]dioxolan-4-yl-methyl)-amino]-ethanol | 0.122 mol, 99% yield | CC1(OCC(O1)CNCCO)C | C8H17NO3
